US06022894
EXAMPLE 18: Preparation of N-(2-Hydroxy-3-isopropoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 15, supra, isopropylglycidyl ether (126 μL, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 53 mg of the title compound as a clear, colorless oil; GC/EI-MS, m/z (rel. int.) 296 (M+1, 0.2), 280 (1.4), 222 (1.5), 174 (100), 132 (12), 121(24); 1H-NMR (CDCl3) δ 7.03 (2H, d, J=8.4), 6.77 (2H, d, J=8.4), 3.72 (3H, s), 3.70 (1H, m), 3.53 (1H, m), 3.38 (2H, m), 2.80 (1H, broad s), 2.73 (2H, m), 2.58 (4H, m) 1.09 (6H, m), 1.01 (3H, s), 0.99 (3H, s); 13C-NMR (CDCl3) δ 157.9, 131.2, 129.9, 113.2, 73.4, 71.2, 69.0, 54.9, 53.1, 46.2, 44.5, 31.5, 26.6, 26.4, 19.1, 13.8.

reactant | isopropylglycidyl ether | 1.0 mmol, 126 μL | C(C)(C)OCC1CO1 | C6H12O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-isopropoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 53 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COC(C)C | C17H29NO3
